US07700589B2
9g) methyl (R)-3-(3,4-diethyl-phenyl)-2-{[4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carbonyl]-amino}-propionate
The mixture of 41.7 g (0.153 mol) methyl (R)-2-amino-3-(3,4-diethyl-phenyl)-propionate, 800 mL THF and 28 mL (0.161 mol) ethyldiisopropylamine was combined with 25.4 g (0.157 mol) CDT and then 38.0 g (0.155 mol) 3-piperidin-4-yl-1,3,4,5-tetrahydro-1,3-benzodiazepin-2-one while cooling with an ice bath and refluxed for 3 h with stirring. The reaction mixture was then extracted with 300 mL 10% citric acid solution, three times with 100 mL aliquots of water and 200 mL saturated NaCl solution, dried and evaporated down under reduced pressure.

reactant | methyl (R)-2-amino-3-(3,4-diethyl-phenyl)-propionate | 0.153 mol, 41.7 g | N[C@@H](C(=O)OC)CC1=CC(=C(C=C1)CC)CC | C14H21NO2
reactant | ethyldiisopropylamine | 0.161 mol, 28 mL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 3-piperidin-4-yl-1,3,4,5-tetrahydro-1,3-benzodiazepin-2-one | 0.155 mol, 38.0 g | N1CCC(CC1)N1C(NC2=C(CC1)C=CC=C2)=O | C14H19N3O
reactant | THF | 800 mL | C1CCOC1 | C4H8O
product | methyl (R)-3-(3,4-diethyl-phenyl)-2-{[4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carbonyl]-amino}-propionate | C(C)C=1C=C(C=CC1CC)C[C@H](C(=O)OC)NC(=O)N1CCC(CC1)N1C(NC2=C(CC1)C=CC=C2)=O | C29H38N4O4
